** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_row_25/swmatrix_row_25_w_clkbuf.sch

./include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice

.subckt swmatrix_row_25_w_clkbuf D_in D_out PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] pin VDDd VSSd
+ enable Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19] Q[20] Q[21] Q[22] Q[23]
+ Q[24]
*.PININFO pin:B PHI_2:I PHI_1:I BUS[1:25]:B D_in:I Q[1:24]:B VDDd:B VSSd:B D_out:O enable:I
xSR Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19] Q[20] Q[21] Q[22]
+ Q[23] Q[24] D_out D_in PHI_1_buf PHI_2_buf VDDd VSSd ShiftReg_row_25
xTgates[1] Q[1] BUS[1] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[2] Q[2] BUS[2] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[3] Q[3] BUS[3] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[4] Q[4] BUS[4] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[5] Q[5] BUS[5] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[6] Q[6] BUS[6] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[7] Q[7] BUS[7] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[8] Q[8] BUS[8] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[9] Q[9] BUS[9] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[10] Q[10] BUS[10] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[11] Q[11] BUS[11] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[12] Q[12] BUS[12] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[13] Q[13] BUS[13] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[14] Q[14] BUS[14] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[15] Q[15] BUS[15] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[16] Q[16] BUS[16] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[17] Q[17] BUS[17] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[18] Q[18] BUS[18] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[19] Q[19] BUS[19] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[20] Q[20] BUS[20] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[21] Q[21] BUS[21] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[22] Q[22] BUS[22] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[23] Q[23] BUS[23] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[24] Q[24] BUS[24] pin VDDd VSSd enable_buf swmatrix_Tgate
xTgates[25] D_out BUS[25] pin VDDd VSSd enable_buf swmatrix_Tgate
x1 net1 net2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x4 PHI_1 net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x5 net2 net3 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_12
x7 net3 PHI_1_buf VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
x9 net4 net5 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x10 PHI_2 net4 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x11 net5 net6 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_12
x12 net6 PHI_2_buf VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
x2 net7 net8 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x3 enable net7 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x6 net8 net9 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_12
x8 net9 enable_buf VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
.ends

* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sch
.subckt ShiftReg_row_25 Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19]
+ Q[20] Q[21] Q[22] Q[23] Q[24] Q[25] D_in PHI_1 PHI_2 VDDd VSSd
*.PININFO PHI_1:I PHI_2:I D_in:I Q[1:25]:O VDDd:B VSSd:B
xFF[1] D_in Q[1] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[2] Q[1] Q[2] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[3] Q[2] Q[3] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[4] Q[3] Q[4] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[5] Q[4] Q[5] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[6] Q[5] Q[6] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[7] Q[6] Q[7] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[8] Q[7] Q[8] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[9] Q[8] Q[9] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[10] Q[9] Q[10] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[11] Q[10] Q[11] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[12] Q[11] Q[12] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[13] Q[12] Q[13] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[14] Q[13] Q[14] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[15] Q[14] Q[15] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[16] Q[15] Q[16] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[17] Q[16] Q[17] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[18] Q[17] Q[18] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[19] Q[18] Q[19] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[20] Q[19] Q[20] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[21] Q[20] Q[21] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[22] Q[21] Q[22] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[23] Q[22] Q[23] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[24] Q[23] Q[24] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[25] Q[24] Q[25] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sch
.subckt swmatrix_Tgate control T2 T1 VDDd VSSd enable
*.PININFO T1:B T2:B VDDd:B VSSd:B control:I enable:I
XM1 T1 gated_control T2 VSSd nfet_03v3 L=0.28u W=48u nf=6 m=1
XM2 T1 gated_controlb T2 VDDd pfet_03v3 L=0.28u W=144u nf=18 m=1
**** begin user architecture code


.param mn_w=48u
.param mp_w=144u

**** end user architecture code
x1 gated_control gated_controlb VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x2 control enable net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x3 net1 gated_control VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sch
.subckt DFF_2phase_1 D Q PHI_1 PHI_2 VDDd VSSd
*.PININFO D:I PHI_1:I PHI_2:I Q:O VDDd:B VSSd:B
xmain D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
xsecondary out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
* noconn VSSd
* noconn VDDd
.ends

